US07365085B2
e. N-(2-[2-Methoxyphenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride
The titled compound was prepared from N-(2-[2-methoxyphenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine in 62% yield in the same manner as the preparation of N-(2-[2-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine in Example 184g. MS (ESI) 550 (MH+).

reactant | N-(2-[2-methoxyphenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine | COC1=C(C=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)OC)C | C30H33ClF3NO4
reactant | N-(2-[2-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine | ClC1=C(C=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)O)C | C28H28Cl2F3NO3
product | N-(2-[2-Methoxyphenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride | 62% yield | Cl.COC1=C(C=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)O)C | InChI=1S/C29H31ClF3NO4.ClH/c1-20(24-11-3-4-13-26(24)37-2)18-34(19-22-9-6-12-25(28(22)30)29(31,32)33)14-7-15-38-23-10-5-8-21(16-23)17-27(35)36;/h3-6,8-13,17,20H,7,14-16,18-19H2,1-2H3,(H,35,36);1H
